US04131633
preparation of Tri-n-butyl(carboxypropyl)phosphonium Chloride
Tri-n-butyl phosphine (0.1 mole) and 4-chlorobutyric acid (0.1 mole) were refluxed in toluene for 4 hours. Evaporation of the solvent from the reaction mixture left a viscous liquid whose infrared spectrum and elemental analysis corresponded to a compound of the formula

reactant | Tri-n-butyl phosphine | 0.1 mole | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 4-chlorobutyric acid | 0.1 mole | ClCCCC(=O)O | C4H7ClO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Tri-n-butyl(carboxypropyl)phosphonium Chloride | [Cl-].C(CCC)[P+](CCCC(=O)O)(CCCC)CCCC | InChI=1S/C16H33O2P.ClH/c1-4-7-12-19(13-8-5-2,14-9-6-3)15-10-11-16(17)18;/h4-15H2,1-3H3;1H
